Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / tetanus toxoid, adsorbed / formaldehyde / latex / 
Codeine / Losartan
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of cad s/p stening, afib on Coumadin, DM2, htn 
presenting to the ED with dyspnea. Pt reports over past ___ 
weeks he has been feeling short of breath. Worse with exertion. 
Associated with a cough productive of sputum. No chest pain, 
denies any N/V/D. No recent weight gain or diarrhea. Seen by 
cards 3 days ago where he was started on amiodarone for his 
afib. 

In the ED initial vitals were: 97.8 | 80 | 124/73 | 19 | 98% RA 
EKG:
Labs/studies notable for: ___, proBNP=4369, INR=2.3, 
Lactate=2.2, Tpn<0.01
Patient was given: Lasix 20mg IV at 14:51 ___
Vitals on transfer: 98.2 | 82 | 118/89 | 21 | 94% RA 
 
On the floor, patient feeling well with no dyspnea, chest pain, 
or lightheadedness. 

ROS: +Paroxysmal nocturnal dyspnea x3-4 months. +Dyspnea on 
exertion. Cardiac review of systems is notable for absence of 
chest pain, orthopnea, ankle edema, palpitations, syncope or 
presyncope.

Denies any recent fevers, chills or rigors. All of the other 
review of systems were negative. 

 
Past Medical History:
- CAD status post anterior MI
- Atrial fibrillation on warfarin, metoprolol, amiodarone
- HFrEF (LVEF=30%)
- LV apical aneurysm, h/o of LV thrombus
- Nephrolithiasis (___)
- Diabetes mellitus
- GI bleed
- Hypertension.
- Dyslipidemia.
 
Social History:
___
Family History:
No premature coronary artery disease, sudden cardiac death in 
the family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T=98.0  BP=147/89 HR=81 RR=16 O2 sat=95% RA
I/O: 120/475
GENERAL: Elderly male in NAD. Alert and Oriented x3. Mood, 
affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 11-12 cm at 30 deg.
CARDIAC: Irregular RR, normal S1/S2. No murmurs/rubs/gallops.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: Warm. No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAM:
Vitals: T=98.2  ___  BP=134-142/91  RR=17 O2=94-95% on RA 
I/O= 180/450 (8hrs), 240/900 (24hrs)
Weight: 81.0 kg
Weight on admission: 82.1 kg
Telemetry: A-fib, with some stretches with conducted P waves, 
possibly A-flutter
General: Elderly male in NAD
HEENT: PERRL. EOMI. MMM.
Lungs: Clear without rales or wheezes
CV: Irregular, S1/S2.
Ext: Warm. No edema.
 
Pertinent Results:
ADMISSION LABS:
___ 12:05PM BLOOD WBC-7.2 RBC-4.51* Hgb-14.0 Hct-43.8 
MCV-97 MCH-31.0 MCHC-32.0 RDW-14.9 RDWSD-53.1* Plt ___
___ 12:05PM BLOOD Neuts-68.7 Lymphs-18.8* Monos-6.6 Eos-4.6 
Baso-1.0 Im ___ AbsNeut-4.96 AbsLymp-1.36 AbsMono-0.48 
AbsEos-0.33 AbsBaso-0.07
___ 12:05PM BLOOD ___ PTT-40.7* ___
___ 12:05PM BLOOD Glucose-175* UreaN-24* Creat-1.4* Na-139 
K-5.7* Cl-106 HCO3-20* AnGap-19
___ 12:05PM BLOOD proBNP-___*
___ 12:05PM BLOOD Calcium-9.4 Phos-3.2 Mg-2.0
___ 12:11PM BLOOD Lactate-2.2* K-4.5
___ 09:50PM BLOOD Lactate-1.9

DISCHARGE LABS:
___ 06:15AM BLOOD WBC-6.0 RBC-4.52* Hgb-14.1 Hct-43.5 
MCV-96 MCH-31.2 MCHC-32.4 RDW-14.8 RDWSD-52.7* Plt ___
___ 06:15AM BLOOD ___ PTT-38.3* ___
___ 06:15AM BLOOD Glucose-143* UreaN-25* Creat-1.4* Na-141 
K-4.3 Cl-104 HCO3-26 AnGap-15
___ 06:15AM BLOOD Calcium-9.7 Phos-3.6 Mg-1.7

IMAGING:

ECG ___: Baseline artifact. The rhythm appears to be atrial 
fibrillation with some organized atrial activity. 
Intraventricular conduction delay with left axis deviation. 
Possible left anterior fascicular block. Poor R wave progression 
in leads V1-V4. Cannot exclude an anteroseptal wall myocardial 
infarction of indeterminate age. Possible left ventricular 
hypertrophy. Minor ST segment depression in the lateral limb 
leads with T wave inversion in leads I, aVL and
leads V5-V6, this may be consistent with repolarization changes 
seen in left ventricular hypertrophy, although cannot exclude 
myocardial ischemia. Clinical correlation is suggested. Compared 
to the previous tracing of ___ the rhythm now appears to be 
atrial fibrillation. The ST-T wave changes are more pronounced. 
Clinical correlation is suggested.

___ Chest XR: Vascular congestion and mild pulmonary edema, 
as well as mild cardiomegaly and small bilateral pleural 
effusions.
 
Brief Hospital Course:
Mr. ___ is a ___ with history of sCHF and A-fib presenting 
with CHF exacerbation. 

He had progressive DOE and orthopnea in the weeks prior to 
admission. On arrival BNP was elevated to >4000. He received 
20mg IV Lasix in the ED with good response. Subsequently 
endorsed resolved orthopnea. He was discharged on 20mg PO 
torsemide with plan for outpatient cardiology followup.

# CORONARIES: ___ total occlusion of LAD, no 
revascularization
# PUMP: LVEF=30%
# RHYTHM: A-fib, rate controlled

==============
ACTIVE ISSUES:
==============

# Acute on chronic systolic CHF exacerbation: LVEF=30% secondary 
to ischemia, previous anterior MI. Patient presented with weeks 
of progressive dyspnea on exertion and history concerning for 
paroxysmal nocturnal dyspnea. BNP elevated >4000 in ED. Got 
Lasix 20mg x1 in ED with good output. Patient stable on room air 
and not feeling dyspneic even when lying flat at time of 
admission. Recently started amiodarone, though this is unlikely 
to be trigger. Possible triggers include a-fib with high rates, 
dietary changes (though patient denies). Discharged on torsemide 
20mg daily for volume maintenance.

# Atrial fibrillation: On metoprolol and recently started on 
amiodarone for rhythm control, preparation for possible 
cardioversion. Undergoing amiodarone load, details above in home 
meds. Rates acceptable on admission. Brief run of rapid rate in 
130s, likely a-fib. Telemetry with some stretches showing P 
waves, intermittently conducted--possibly atrial flutter. 
Continued amiodarone load.

# ___ on CKD: Presumed based on Cr elevated to 1.4 on admission, 
last value in system is 1.1 in ___. Most likely cardiorenal. 
___ be contribution of diabetic nephropathy, hypertension. 
Discharged at Cr of 1.4. Encourage follow up by patient's usual 
provider.

================
CHRONIC ISSUES:
================

# Hypertension: On valsartan and metoprolol. Held valsartan 
while inpatient and at discharge due to concern for ___. 
Continued metoprolol.

# CAD with h/o anterior MI: Continued atorvastatin 80mg, 
metoprolol. Valsartan held at discharge.

# Diabetes mellitus: On metformin at home. HbA1c unknown.

===================
TRANSITIONAL ISSUES:
===================
- He was discharged on 20mg PO torsemide
- He should have outpatient transthoracic ECHO to further 
characterize his cardiac function
- Please check Chem 7 at PCP followup appointment in setting of 
new torsemide use
- Valsartan was held due to elevated creatinine. Please restart 
if appropriate at PCP followup

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Warfarin 5 mg PO DAILY16 
2. Atorvastatin 80 mg PO QPM 
3. Valsartan 80 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Frequency 
is Unknown 
7. Amiodarone 400 mg PO BID 

 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
2. Warfarin 5 mg PO DAILY16 
3. Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth Once a day Disp #*30 
Tablet Refills:*0
4. Amiodarone 400 mg PO BID 
5. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Outpatient Lab Work
Please check Chem 7 on ___.
(ICD 10: I50.9)
Fax results to ___ MD: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Acute decompensated systolic heart failure

SECONDARY DIAGNOSIS:
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the ___ due to volume overload. You were given 
diuretic medications and your symptoms improved.

After discharge, please follow up with your doctors as directed.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___